US06316468B1
Step 2: 3-(Piperidin-4-yl)-2-phenyl-1H-indole
3-(1,2,3,6-Tetrahydropyridin-4-yl)-2-phenyl-1H-indole (25 g, 91 mmol), palladium on carbon (10% w/w, 2.5 g) and NH4HCO2 (57 g, 0.72 mol) were refluxed in MeOH (300 ml) for 8 h. Palladium on carbon (10% w/w, 1.25 g) and NH4HCO2 (29 g, 0.36 mol) were added, and refluxing continued for 8 h. The mixture was cooled, filtered, and evaporated to give a white solid. This was suspended in H2O (1 l) and 1M NaOH (100 ml), and the mixture extracted with CH2Cl2 (5×150 ml). The combined organic layers were washed with water and brine, dried, and evaporated in vacuo to give a white solid, which was recrystallised from MeOH (300 ml) and H2O (100 ml) to give the title compound (19 g, 75%) as white crystals, mp 187-188° C. Oxalate salt, white crystals, mp 209-211° C. (from EtOH). Found C, 69.09; H, 6.65; N, 7.52. C19H20N2. C2H2O4 requires C, 68.84; H, 6.05; N, 7.65%; δH (360 MHz, d6-DMSO) 1.80 (2H, d, J 13, NCH2CHAHB), 2.30-2.50 (2H, m, NCH2CHAHB), 2.91 (2H, t, J 12, NCHAHB), 3.10-3.20 (1H, m, CH2CH), 3.32 (2H, d, J 12, NCHAHB), 6.98 (1H, t, J 7, indole-H), 7.08 (1H, t, J 7, indole-H), 7.20-7.50 (6H, m, ArH), 7.88 (1H, d, J 7, ArH), 11.3 (1H, br s, indole NH); m/z (ES+) 277 (M++H).

reactant | 3-(1,2,3,6-Tetrahydropyridin-4-yl)-2-phenyl-1H-indole | 91 mmol, 25 g | N1CCC(=CC1)C1=C(NC2=CC=CC=C12)C1=CC=CC=C1 | C19H18N2
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
solvent | MeOH | 300 ml | CO | CH4O
catalyst | Palladium on carbon | 1.25 g | [Pd] | Pd
solvent | H2O | 1 l | O | H2O
product | 3-(Piperidin-4-yl)-2-phenyl-1H-indole | 19 g, 75% | N1CCC(CC1)C1=C(NC2=CC=CC=C12)C1=CC=CC=C1 | C19H20N2
